US09227985B2
N-Bromosuccinimide (70 mg, 0.4 mmol) was added to a solution of 4-ethyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (80 mg, 0.4 mmol) in acetonitrile (5 mL) and acetic acid (10 mL) cooled to 0° C. The reaction was stirred for 30 min, was concentrated to remove residual acetic acid, and the resulting residue was dissolved in ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude 7-bromo-4-ethyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (0.07 g. 80%). LCMS calculated for C16H15BrN3O2 (M+H)+: m/z=360.1, 362.1. found: 359.8, 361.8.

reactant | N-Bromosuccinimide | 0.4 mmol, 70 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-ethyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.4 mmol, 80 mg | C(C)C1(COC2=C3N1C(NC3=CC=C2)=O)C2=NC=CC=C2 | C16H15N3O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-4-ethyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.07 g, 80% | BrC1=CC=C2C=3N(C(COC31)(C3=NC=CC=C3)CC)C(N2)=O | C16H14BrN3O2
